US09403805B2
(2S,4S)-4-[(1 -hydroxy-naphthalene-2-carbonyl)-amino]-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester was prepared from (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester and 1-hydroxy-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C26H24N3O5 [(M+H)+] 458, obsd. 458.

reactant | (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC=CN1 | C15H17N3O3
reactant | 1-hydroxy-naphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
product | (2S,4S)-4-[(1 -hydroxy-naphthalene-2-carbonyl)-amino]-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C=1OC=CN1 | C26H23N3O5
